US07884124B2
(E)-5-styrylthiophene-3-carbaldehyde was synthesized from 5-iodo-3-thiophene carboxaldehyde and (E)-styrylboronic acid using the conditions to synthesize 4-(4-chlorobenzyl)thiophene-2-carbaldehyde. The crude product was chromatographed over silica gel (0 to 25% EtOAc in heptane over 30 min) to give (E)-5-styrylthiophene-3-carbaldehyde (0.115 g, 20% yield). 1H NMR (400 MHz, CDCl3) δ ppm 9.86 (s, 1H), 7.97 (s, 1H), 7.48 (m, 3H), 7.38 (m, 2H), 7.31 (m, 1H), 7.19 (d, J=16.2 Hz, 1H), 6.99 (d, J=16.2 Hz, 1H).

reactant | 5-iodo-3-thiophene carboxaldehyde | IC1=CC(=CS1)C=O | C5H3IOS
reactant | (E)-styrylboronic acid | C(=C\C1=CC=CC=C1)/B(O)O | C8H9BO2
reactant | 4-(4-chlorobenzyl)thiophene-2-carbaldehyde | ClC1=CC=C(CC=2C=C(SC2)C=O)C=C1 | C12H9ClOS
product | (E)-5-styrylthiophene-3-carbaldehyde | 0.115 g, 20% yield | C(=C\C1=CC=CC=C1)/C1=CC(=CS1)C=O | C13H10OS
